US08497376B2
d) 6-(2,2,6,6-Tetramethyl-tetrahydro-pyran-4-yl)-pyridin-3-ylamine
To a solution of 5-nitro-2-(2,2,6,6-tetramethyl-3,6-dihydro-2H-pyran-4-yl)-pyridine (as prepared in the previous step, 15.0 g, 57.1 mmol) in EtOH (60 mL) was added 10% Pd/C (7.00 g). The resulting mixture was hydrogenated at 50 psi of hydrogen pressure for 2 h. The reaction mixture was filtered through a pad of Celite and concentrated in vacuo to obtain a beige solid (12.7 g, 95%) which was directly used in next step without further purification. 1H-NMR (CDCl3; 400 MHz): δ 8.05 (br s, 1H), 6.98 (m, 2H), 3.59 (br s, 2H), 3.16 (m, 1H), 1.79 (m, 2H), 1.52 (m, 2H), 1.35 (s, 6H), 1.26 (s, 6H). Mass spectrum (ESI, m/z): Calcd. for C14H22N2O, 235.2 (M+H), found 235.1.

reactant | 5-nitro-2-(2,2,6,6-tetramethyl-3,6-dihydro-2H-pyran-4-yl)-pyridine | [N+](=O)([O-])C=1C=CC(=NC1)C=1CC(OC(C1)(C)C)(C)C | C14H18N2O3
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 60 mL | CCO | C2H6O
catalyst | Pd/C | 7.00 g | [Pd] | Pd
product | 6-(2,2,6,6-Tetramethyl-tetrahydro-pyran-4-yl)-pyridin-3-ylamine | 12.7 g, 95% | CC1(OC(CC(C1)C1=CC=C(C=N1)N)(C)C)C | C14H22N2O
